US04331608
The co-oxidation reaction was carried out in a manner as described in Example 1, except that cyclododecene was used in lieu of cis-Δ4 -tetrahydrophthalic anhydride. Acetic acid was obtained at a yield of 95% and 1,10-dicarboxy decane was obtained at a yield of 94%.

reactant | cyclododecene | C1=CCCCCCCCCCC1 | C12H22
reactant | tetrahydrophthalic anhydride | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
reactant | Acetic acid | C(C)(=O)O | C2H4O2
product | 1,10-dicarboxy decane | yield of 94% | C(=O)(O)CCCCCCCCCCC(=O)O | C12H22O4
